US05668291
2,2'-Dithiobis[N-(3-methylphenyl)benzamide]
This compound was prepared according to the general method of Example 77 using 2,2'-dithiobisbenzoyl chloride (2.00 g, 5.83 mmol) in 50 mL of dichloromethane and m-toluidine (1.24 g, 11.6 mmol) in 10 mL of pyridine. The crude product was recrystallized from ethyl ether-ethyl acetate to yield 1.18 g of the title compound, mp 193°-195° C.

reactant | 2,2'-dithiobisbenzoyl chloride | 5.83 mmol, 2.00 g | C(C1=C(C=CC=C1)SSC1=C(C(=O)Cl)C=CC=C1)(=O)Cl | C14H8Cl2O2S2
reactant | m-toluidine | 11.6 mmol, 1.24 g | NC1=CC(=CC=C1)C | C7H9N
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
solvent | pyridine | 10 mL | N1=CC=CC=C1 | C5H5N
product | 2,2'-Dithiobis[N-(3-methylphenyl)benzamide] | 1.18 g | CC=1C=C(C=CC1)NC(C1=C(C=CC=C1)SSC1=C(C(=O)NC2=CC(=CC=C2)C)C=CC=C1)=O | C28H24N2O2S2
